US09227985B2
Step 2. (3-Methylisoxazol-5-yl)methyl benzoate
A solution of prop-2-yn-1-yl benzoate (26.0 g, 162 mmol) in chloroform (598 mL) was treated with triethylamine (11.3 mL, 81.2 mmol) and acetaldoxime (14.4 g, 244 mmol). The reaction mixture was cooled to 0° C., treated with sodium hypochlorite (551 mL, 487 mmol) (commercial grade ˜5% aqueous), and stirred overnight at room temperature. The layers were separated and the aqueous layer was extracted with dichloromethane (2×200 mL). The combined organic layers were washed with water and brine, dried over magnesium sulfate, filtered, and concentrated to give the crude product. Purification by flash column chromatography (100% hexanes to 30% ethyl acetate/hexanes) gave the desired product (20.1 g, 57%). LCMS calculated for C12H12NO3 (M+H)+: m/z=218.1. found: 218.1.

reactant | prop-2-yn-1-yl benzoate | 162 mmol, 26.0 g | C(C1=CC=CC=C1)(=O)OCC#C | C10H8O2
reactant | triethylamine | 81.2 mmol, 11.3 mL | C(C)N(CC)CC | C6H15N
reactant | acetaldoxime | 244 mmol, 14.4 g | C(C)=NO | C2H5NO
reactant | sodium hypochlorite | 487 mmol, 551 mL | Cl[O-].[Na+]
solvent | chloroform | 598 mL | C(Cl)(Cl)Cl | CHCl3
product | (3-Methylisoxazol-5-yl)methyl benzoate | 20.1 g, 57% | C(C1=CC=CC=C1)(=O)OCC1=CC(=NO1)C | C12H11NO3
